US05329033
I.3. 2-Methyl-4-ethylindene (a4 )
140 ml (420 mmol) of a 3 M ethereal methylmagnesium bromide solution were added to a solution of 22.4 g (140 mmol) of a3 in 500 ml of diethyl ether at room temperature under Ar protection in the course of 1 hour. The mixture was then stirred under reflux at room temperature for another 2 hours, and was stirred at room temperature for a further 15 hours. The mixture was poured onto ice acidified with HCl, and extracted with ether. After the extract had been dried over sodium sulfate, the solvent was stripped off. The yellow oil which remained (20.3 g) was taken up in 800 ml of analytical grade toluene, 2.2 g (11.5 mmol) of p-toluenesulfonic acid hydrate were added and the mixture was refluxed for 45 minutes. After cooling, the solution was washed several times with water, dried over sodium sulfate and evaporated. The residue was chromatographed on 620 g of silica gel 60.5.5 g (25%) of the indene a4 (yellowish oil) could be eluted with hexane/methylene chloride (20:1). Still unused starting material a3 could be recovered with hexane/ethyl acetate (9:1).

reactant | methylmagnesium bromide | 3 M | C[Mg]Br
reactant | HCl | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid hydrate | 11.5 mmol, 2.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-Methyl-4-ethylindene | CC=1CC2=CC=CC(=C2C1)CC | C12H14
